US07687491B2
(17a) 4-(3-Fluorophenoxy)benzoic acid
The title compound (2.0 g) was synthesized in a yield of 96% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 10 (10e) using 4-fluorobenzaldehyde (1.5 g, 12 mmol), 3-fluorophenol (1.2 ml, 13 mmol), potassium carbonate (3.3 g, 24 mmol), 2-methyl-2-butene (4.8 ml, 45 mmol), potassium dihydrogenphosphate (3.1 g, 23 mmol), and sodium hypochlorite (2.5 g, 27 mmol).

reactant | 4-fluorobenzaldehyde | 12 mmol, 1.5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-fluorophenol | 13 mmol, 1.2 ml | FC=1C=C(C=CC1)O | C6H5FO
reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-butene | 45 mmol, 4.8 ml | CC(C)=CC | C5H10
reactant | potassium dihydrogenphosphate | 23 mmol, 3.1 g | P(=O)(O)(O)[O-].[K+]
reactant | sodium hypochlorite | 27 mmol, 2.5 g | Cl[O-].[Na+]
product | 4-(3-Fluorophenoxy)benzoic acid | 2.0 g, yield of 96% | FC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=CC1 | C13H9FO3
